US08609692B2
N-(isoquinolin-3-yl)acetamide
Acetic anhydride (5.92 mL, 62.6 mmol) was added to a suspension of isoquinolin-3-amine (3.01 g, 20.9 mmol) and triethylamine (3.18 mL, 23.0 mmol) in CH2Cl2 (80 mL) at ambient temperature. The mixture was stirred 3.5 hours, then the volatiles were evaporated in vacuo. The residue was chased with toluene and concentrated in vacuo (3×25 mL) to provide the title compound (3.89 g) as a yellow solid. This material, which was found to also contain small quantities of acetic acid, was used without further purification. 1H NMR (300 MHz, DMSO-d6) δ 10.58 (s, 1H), 9.13 (s, 1H), 8.45 (s, 1H), 8.04 (d, J=7.8 Hz, 1H), 7.88 (d, J=8.2 Hz, 1H), 7.69 (ddd, J=8.2, 6.8, 1.2 Hz, 1H), 7.52 (ddd, J=7.9, 6.9, 1.0 Hz, 1H), 2.13 (s, 3H).

reactant | Acetic anhydride | 62.6 mmol, 5.92 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | isoquinolin-3-amine | 20.9 mmol, 3.01 g | C1=NC(=CC2=CC=CC=C12)N | C9H8N2
reactant | triethylamine | 23.0 mmol, 3.18 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 80 mL | C(Cl)Cl | CH2Cl2
product | N-(isoquinolin-3-yl)acetamide | 3.89 g | C1=NC(=CC2=CC=CC=C12)NC(C)=O | C11H10N2O
